Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
Vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with type I diabetes on insulin ___ 
___ disease, SLE, Graves' disease with post-ablative 
hypothyroidism presenting for vomiting.

She reports sudden onset of nausea and large volume emesis that 
awoke her from sleep around 6 AM this morning. Has subsequently 
had a total of 4 episodes of non-bloody, non-bilious emesis with 
associated mild abdominal cramping. Other than having general 
feeling of malaise yesterday she had no other preceding 
symptoms. She has not had any diarrhea and has actually been 
constipated which is unusual for her. Also with mild generalized 
headache throughout today. Symptoms are nothing like her prior 
episodes of gastroparesis.

Of note her husband was recently diagnosed with influenza A on 
___. She denies any respiratory symptoms and has not had any 
fevers, chills, cough, or sputum production. 

Because of her ongoing vomiting she presented to urgent care 
where she received IV fluids. Labs there showed Na of 118 
prompting referral to ___ for further evaluation. 

In the ED, initial vitals were: 97 77 143/73 16 100% RA 
- Exam notable for: Abdomen soft, minimally tender to palpation,
non-distended. No masses.
- Labs notable for: Na 123 (whole blood 121), lactate 0.9,
influenza A/B negative.
- Imaging was notable for: CXR without evidence of pneumonia.
- Patient was given: Reglan 10 IV, NS @ 250.

Upon arrival to the floor, patient provides the history as 
detailed above. Feeling somewhat improved with IV hydration 
though still having mild abdominal cramping and headache. No new 
symptoms. 

 
Past Medical History:
type I diabetes with insulin pump
___ disease
systemic lupus erythematosus 
Graves' disease
post-ablative hypothyroidism
low-grade rheumatoid arthritis
irritable bowel syndrome
gastroparesis
osteopenia
h/o pericardial effusion
bilateral myopia with presbyopia
allergies
liver right lobe lesion
 
Social History:
___
Family History:
Brother with type I diabetes but otherwise no family history of 
autoimmune or rheumatologic disorders.
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: 98.3 113/52 74 16 98 Ra 
GENERAL: Well appearing woman in acute distress. Comfortable.
NEURO: AAOx3. CNII-XII intact. Moving all four extremities with
purpose.
HEENT: NCAT. EOMI. MMM.
CARDIAC: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs,
or gallops.
PULMONARY: Clear to auscultation bilaterally. Breathing
comfortably on room air.
ABDOMEN: Very mild tenderness over lower abdomen, no rebound or
guarding. Otherwise soft, non-distended.
EXTREMITIES: Warm, well perfused, non-edematous. Capillary 
refill
<2 seconds. Normal skin turgor.
SKIN: No significant rashes.

DISCHARGE EXAM:
================
VITALS: ___ 1126 Temp: 98.4 PO BP: 105/56 HR: 76 RR: 16 O2
sat: 97% O2 delivery: Ra  
GENERAL: Well appearing woman in acute distress. Comfortable.
NEURO: AAOx3. CNII-XII intact. Moving all four extremities with
purpose.
HEENT: NCAT. EOMI. MMM.
CARDIAC: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs,
or gallops.
PULMONARY: Clear to auscultation bilaterally. Breathing
comfortably on room air.
ABDOMEN: Very mild tenderness over lower abdomen, no rebound or
guarding. Otherwise soft, non-distended.
EXTREMITIES: Warm, well perfused, non-edematous. Capillary 
refill
<2 seconds. Normal skin turgor.
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS:
================
___ 12:56PM BLOOD Na-133
___ 04:15PM BLOOD WBC-7.0 RBC-3.59* Hgb-11.4 Hct-31.8* 
MCV-89 MCH-31.8 MCHC-35.8 RDW-12.2 RDWSD-39.8 Plt ___
___ 06:42AM BLOOD ___ PTT-28.9 ___
___ 04:15PM BLOOD Glucose-73 UreaN-19 Creat-0.5 Na-123* 
K-4.9 Cl-86* HCO3-24 AnGap-13
___ 04:15PM BLOOD ALT-18 AST-20 AlkPhos-77 TotBili-0.6
___ 04:15PM BLOOD Albumin-4.4 Calcium-8.8 Phos-2.3* Mg-1.9
___ 06:30AM BLOOD Cortsol-11.6
___ 07:10PM BLOOD TSH-1.2

DISCHARGE LABS:
================
___ 06:42AM BLOOD WBC-4.2 RBC-3.75* Hgb-11.8 Hct-34.5 
MCV-92 MCH-31.5 MCHC-34.2 RDW-12.7 RDWSD-42.4 Plt ___
___ 06:42AM BLOOD Glucose-173* UreaN-10 Creat-0.7 Na-138 
K-4.6 Cl-101 HCO3-25 AnGap-12
___ 12:56PM BLOOD Na-133

MICRO:
=======
BLOOD CULTURE FROM ___ PENDING: NO GROWTH TO DATE
URINE CULTURE FROM ___: NEGATIVE

IMAGING:
=========
CXR ___: No evidence of pneumonia.

 
Brief Hospital Course:
___ woman with type I diabetes on insulin ___ 
___ disease, SLE, Graves' disease with post-ablative 
hypothyroidism presenting for vomiting found to have 
hyponatremia likely secondary to SIADH. 

# Hyponatremia
# Syndrome of inappropriate antidiuretic hormone secretion
Patient presented with a sodium of 123 that decreased to 120 
after 1L normal saline. Her sodium improved to 133 at time of 
discharge. Nephrology consulted for management of hyponatremia. 
Presentation most consistent with SIADH given urine lytes with 
non sodium avid state (UA Na 75) and high urine osm (609). SIADH 
is likely due to vomiting. dDAVP (which she was prescribed for 
nose bleeds) was last taken on ___ and it is unlikely to be 
still active, but is difficult to exclude that this medication 
may have contributed to her hyponatremia. As her nausea resolved 
her ADH production decreased and she had an increase in her 
urine output with shift of urine osm from 481 to 124. She was 
initially managed with free water restriction. However, her 
sodium subsequently corrected to 130 and she was initiated on 
intravenous D5W to slow the correction. Despite additional free 
water her sodium continued to increase to 135. Given that her 
clinical picture is consistent with acute hyponatremia her rapid 
correction is less concerning per discussion with nephrology. 
Additionally, TSH within normal limits and AM cortisol is 
11.6(low normal). She was asymptomatic prior to discharge. Her 
discharge Na is 133 with plan to have sodium rechecked on ___ 
at her clinic visit that was previously scheduled. 

# Nausea/vomiting
Now improved. Viral illness likely given duration of symptoms 
with recent sick contact at work. No other evidence of acute 
intra-abdominal process. Flu swab negative. LFTs, lipase, 
lactate reassuring. Reports not similar to usual gastroparesis 
symptoms. Blood cultures with no growth at time of discharge.

#Epistaxis
Patient has multiple nose bleeds per week in setting of ___ 
___ disease. Was previously using DDAVP for treatment, 
which she reports is affective for her. H/H within normal 
limits. Had one nose bleed during hospitalization that resolved 
with Afrin. She has a hematology/oncology appointment on ___ 
that she plans to attend. DDAVP held given concern that this may 
have precipitated his hyponatremia. 

# Type I Diabetes
Currently on insulin pump at home. Patient with occasional lows 
of blood glucose. Evaluated by ___ during admission, they 
cautioned patient
to avoid stacking boluses to avoid hypoglycemia, and reviewed 
that target BG range is 100-180mg/dL.

CHRONIC / STABLE ISSUES
=================================

# SLE
Hydroxychloroquine 200/400 alternating daily

# ___ DISEASE
Not currently on any regular treatment. Confirmed that DDAVP 
prescribed in the past is for nosebleeds by her ENT and not for 
bleeding issues. 

# HYPOTHYROIDISM
Levothyroxine Sodium 175 mcg PO/NG DAILY

#CODE STATUS: full (confirmed)
#CONTACT: ___ (husband: ___

TRANSITIONAL ISSUES:
======================
[] Please check Na at heme/onc appointment on ___ to ensure 
level is stable. Discharge Na 133.
[] Advised patient to refrain from using DDAVP for nose bleeds 
until evaluated by hematology/oncology given concern that 
medication may have precipitated hyponatremia episode. 
[] Per Nephrology, if she has to take dDAVP, she should decrease 
her water intake. She should also restrict her water intake, if 
her urine looks very dark/concentrated.
[] Please continue ongoing discussion with ENT and Heme/onc for 
optimal management of frequent nose bleeds.
[] Please follow up with heme/onc for management of ___ 
___ disease.
[] Blood cultures with no growth at time of discharge, not yet 
finalized, please follow up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lifitegrast 5 % ophthalmic (eye) BID 
2. Hydroxychloroquine Sulfate 200 mg PO EVERY OTHER DAY 
3. Hydroxychloroquine Sulfate 400 mg PO EVERY OTHER DAY 
4. cromolyn 4 % ophthalmic (eye) Q4H 
5. Linzess (linaCLOtide) 290 mcg oral DAILY 
6. Desmopressin Nasal 1 SPRY NAS DAILY:PRN as needed 
7. Levothyroxine Sodium 175 mcg PO DAILY 
8. Ferrous GLUCONATE 65 mg PO DAILY 
9. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Basal rate minimum: 1 units/hr
Basal rate maximum: 7.5 units/hr
Bolus minimum: 0.7 units
Bolus maximum: 5 units
Target glucose: 80-180

10. triamcinolone acetonide 0.1 % dental QHS 
11. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral TID 

 
Discharge Medications:
1.  Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Basal rate minimum: 1 units/hr
Basal rate maximum: 7.5 units/hr
Bolus minimum: 0.7 units
Bolus maximum: 5 units
Target glucose: ___
Fingersticks: QAC and HS
MD has ordered ___ consult
Use of ___ medical equipment: Insulin pump
Reason for use: medically necessary and justified as ___ 
cannot provide this type of equipment or suitable alternative 
not appropriate.
Provider acknowledges patient competent
 
2.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral TID  
3.  cromolyn 4 % ophthalmic (eye) Q4H  
4.  Ferrous GLUCONATE 65 mg PO DAILY  
5.  Hydroxychloroquine Sulfate 200 mg PO EVERY OTHER DAY  
6.  Hydroxychloroquine Sulfate 400 mg PO EVERY OTHER DAY  
7.  Levothyroxine Sodium 175 mcg PO DAILY  
8.  lifitegrast 5 % ophthalmic (eye) BID  
9.  Linzess (linaCLOtide) 290 mcg oral DAILY  
10.  triamcinolone acetonide 0.1 % dental QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: hyponatremia, syndrome of inappropriate 
antidiuretic hormone secretion
Secondary: Nausea/vomiting (viral gastroenteritis), type 1 
diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

Why you were here?
You came to the hospital because you were having nausea/vomiting 
and you were found to have a low sodium level on your blood 
tests.

What we did while you were here?
-We carefully monitored your sodium level. 
-We had the nephrology team evaluate your case. 
-At first we restricted the amount of water you were drinking. 
After your sodium level improved we gave you some IV fluids to 
control the rate of improvement.
-We made sure your sodium level improved and stayed stable.

What you should do when you go home?
-Please be sure to have your sodium level checked at your 
hematology appointment tomorrow.
-Please do not use your DDAVP until you discuss this with your 
hematology physician as this medication can cause your sodium 
level to decrease. 

Your ___ Team

 
Followup Instructions:
___